US04743547
Following the procedure of step (iii) of Example 1 but charging 1 g of sulfuric acid into the three-necked flask in lieu of p-toluenesulfonic acid monohydrate, and the whole o-xylene solution containing 95 g (0.43 mole) of butyl phenylpyruvate and sulfuric acid as obtained in step (ii) of Example 8 into the dropping funnel in place of methyl phenylpyruvate, the reaction was carried out in the same manner as in step (iii) of Example 1. The total reaction time was prolonged to 6 hours. The conversion of butyl phenylpyruvate was 97 percent and the selectivity toward butyl α-acetamidocinnamate 85 mole percent (yield of butyl α-acetamidocinnamate: 93 g). The reaction mixture was washed with water in the same manner as in step (iii) of Example 1 to give about 650 ml of an o-xylene solution containing butyl α-acetamidocinnamate in a concentration of about 0.55 mole per liter.

reactant | sulfuric acid | 1 g | S(O)(O)(=O)=O | H2O4S
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | butyl phenylpyruvate | 0.43 mole, 95 g | C1(=CC=CC=C1)CC(C(=O)OCCCC)=O | C13H16O3
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | methyl phenylpyruvate | C1(=CC=CC=C1)CC(C(=O)OC)=O | C10H10O3
